US04797415
Procedure A--To an ice cooled solution of 2-ethyl benzofuran 5.0 g and 5.9 g of o-anisoyl chloride dissolved in 20 ml benzene were added 4.1 ml of SnCl2 dropwise; the reaction mixture was stirred for 3 hours at room temperature. Then it was poured into water, 30 g, containing 5 ml of conc. HCl. The benzene layer was separated and the solution was extracted with benzene again. The combined benzene layer was washed with a 5% NaHCO3 solution and then with water. After drying and removal of benzene under reduced pressure, the yellowish oil, 2-ethyl-3-(o-anisoyl)benzofuran was obtained. Pyridine-HCl was prepared by the introduction of dried HCl gas to 4.75 g of pyridine and a 50 ml of benzene solution, and then by removing benzene twice.

reactant | 2-ethyl benzofuran | 5.0 g | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | o-anisoyl chloride | 5.9 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | SnCl2 | 4.1 ml | Cl[Sn]Cl
reactant | HCl | 5 ml | Cl | ClH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-ethyl-3-(o-anisoyl)benzofuran | C(C)C=1OC2=C(C1C(C=1C(=CC=CC1)OC)=O)C=CC=C2 | C18H16O3
